US03962224
A mixture of diphenyl N-benzyl-aminomethylphosphonate hydrochloride (185.0 g), 10% palladium on carbon (7.0 g), and ethanol (1500 ml) is hydrogenated at 40 psi until hydrogen absorption ceases. The catalyst is removed by filtration through a pad of super cel and the filtrate is evaporated under reduced pressure to give diphenyl aminomethylphosphonate hydrochloride.

reactant | diphenyl N-benzyl-aminomethylphosphonate hydrochloride | 185.0 g | Cl.C(C1=CC=CC=C1)NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O
catalyst | palladium on carbon | 7.0 g | [Pd] | Pd
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | diphenyl aminomethylphosphonate hydrochloride | Cl.NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | InChI=1S/C13H14NO3P.ClH/c14-11-18(15,16-12-7-3-1-4-8-12)17-13-9-5-2-6-10-13;/h1-10H,11,14H2;1H
